US06479486B2
(1R*,2R*,4′S*,5S*,6R*)-2′,3′,4′,5′-Tetrahydro-4′-(2-hydroxy-5-trifluoromethoxyphenyl)-1-phenyl-6-phenylsulphonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan]
A mixture of (1R*,2R*,4′S*,5S*,6R*)-8-benzyl-2′,3′,4′,5′-tetrahydro-4′-(2-benzyloxy-5-trifluoromethoxyphenyl)-1-phenyl-6-phenylsulphonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan](Description 16; 2.2 g, 2.97 mmol), 5% palladium on charcoal (3 g, 1.4 mmol) and ethanol (55 ml) was stirred under hydrogen atmosphere (1 atm) at +70° C. for 70 minutes. The reaction mixture was cooled to room temperature, flushed with nitrogen gas and filtered through a pad of Celite™. The filtrate was concentrated to give the title compound (1.77 g, quant.).

reactant | (1R*,2R*,4′S*,5S*,6R*)-8-benzyl-2′,3′,4′,5′-tetrahydro-4′-(2-benzyloxy-5-trifluoromethoxyphenyl)-1-phenyl-6-phenylsulphonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 2.97 mmol, 2.2 g | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OC[C@@H](C1)C1=C(C=CC(=C1)OC(F)(F)F)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C43H40F3NO5S
catalyst | palladium on charcoal | 1.4 mmol, 3 g | [Pd] | Pd
solvent | ethanol | 55 ml | C(C)O | C2H6O
product | (1R*,2R*,4′S*,5S*,6R*)-2′,3′,4′,5′-Tetrahydro-4′-(2-hydroxy-5-trifluoromethoxyphenyl)-1-phenyl-6-phenylsulphonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 1.77 g | OC1=C(C=C(C=C1)OC(F)(F)F)[C@@H]1C[C@@]2(OC1)[C@@]1(C[C@H]([C@H](CC2)N1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C29H28F3NO5S
